US08865725B2
1,3-Dichloroacetone (2.89 g, 22.77 mmol) was added to a solution 6-chloro-2-methylsulfanyl-pyrimidin-4-ylamine (4 g, 22.77 mmol) in AcOH (15 mL) and the mixture was stirred at 110° C. for 16 hours. Then H2O was added and the solid formed was filtered off and dried in vacuo to yield 7-chloro-2-chloromethyl-5-methylsulfanyl-imidazo[1,2-c]pyrimidine (2.5 g, 44% yield) as a pale brown solid that was used in the next step without further purification.

reactant | 1,3-Dichloroacetone | 22.77 mmol, 2.89 g | ClCC(=O)CCl | C3H4Cl2O
reactant | 6-chloro-2-methylsulfanyl-pyrimidin-4-ylamine | 22.77 mmol, 4 g | ClC1=CC(=NC(=N1)SC)N | C5H6ClN3S
reactant | H2O | O | H2O
solvent | AcOH | 15 mL | CC(=O)O | C2H4O2
product | 7-chloro-2-chloromethyl-5-methylsulfanyl-imidazo[1,2-c]pyrimidine | 2.5 g, 44% yield | ClC1=CC=2N(C(=N1)SC)C=C(N2)CCl | C8H7Cl2N3S
